US09302996B2
In N,N-dimethylformamide (10 mL) were dissolved 5-bromo-2-chloropyridine (1000 mg) and tert-butyl 3-hydroxy-2,2-dimethylpropanoate (991 mg), and 60% sodium hydride (248 mg) was added to the solution under ice-cooling. The reaction mixture was stirred at room temperature for 6 hours, at 50° C. for 1 hour and 45 minutes, and then, at room temperature overnight. Water was added to the reaction mixture under ice-cooling, and the mixture was extracted with ether. The organic layer was separated, washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (n-hexane:ethyl acetate=100:0 to 95:5) to obtain tert-butyl 3-(5-bromopyrimidin-2-yl)oxy-2,2-dimethylpropanoate (1.048 g).

reactant | 5-bromo-2-chloropyridine | 1000 mg | BrC=1C=CC(=NC1)Cl | C5H3BrClN
reactant | tert-butyl 3-hydroxy-2,2-dimethylpropanoate | 991 mg | OCC(C(=O)OC(C)(C)C)(C)C | C9H18O3
reactant | sodium hydride | 248 mg | [H-].[Na+]
reactant | Water | O | H2O
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | tert-butyl 3-(5-bromopyrimidin-2-yl)oxy-2,2-dimethylpropanoate | 1.048 g | BrC=1C=NC(=NC1)OCC(C(=O)OC(C)(C)C)(C)C | C13H19BrN2O3
